US06576645B1
1-[4-(2-Chloroethoxy)phenyl]-2-(2-chlorophenyl)ethanone is prepared according to the method described in the example 4a using 2-chloroethoxybenzene and 2-chlorophenylacetic acid as starting materials.

reactant | 2-chloroethoxybenzene | ClCCOC1=CC=CC=C1 | C8H9ClO
reactant | 2-chlorophenylacetic acid | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
product | 1-[4-(2-Chloroethoxy)phenyl]-2-(2-chlorophenyl)ethanone | ClCCOC1=CC=C(C=C1)C(CC1=C(C=CC=C1)Cl)=O | C16H14Cl2O2
